US09382238B2
To a solution of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (100 mg, 0.243 mmol) and 3-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)aniline (60.3 mg, 0.243 mmol) in pyridine (2 mL) was added T3P® (0.5 mL, 0.243 mmol) at 27° C. under N2. The mixture was stirred at 27° C. for 30 min. LCMS showed the reaction was completed. Then the mixture was put onto ice (10 mg). The precipitate was filtered and redissolved in DCM (5 mL). The solution was washed with water (5 mL×2), and the combined organic extracts were dried over Na2SO4, filtered and concentrated. The residue was suspended in PE/EA (2:1, v/v, 8 mL) and stirred for 10 min. The solid was filtered, and washed with PE/EA (2:1, v/v, 10 mL) and dried in vacuo to give an off-white solid of N-(3-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (100 mg, 0.156 mmol, 64.1% yield). TLC (PE/EA=1:1, Rf=0.3): 1H NMR (400 MHz, CD3OD) δ 7.97-7.92 (m, 1H), 7.76 (br. s., 1H), 7.48-7.37 (m, 7H), 7.04 (s, 1H), 6.91 (d, J=8.6 Hz, 2H), 5.36 (s, 2H), 4.14 (q, J=7.1 Hz, 4H), 3.86-3.78 (m, 5H), 2.97 (br. s., 8H), 1.42 (t, J=6.9 Hz, 4H). ES-LCMS m/z 642 (M+H).

reactant | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.243 mmol, 100 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | 3-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)aniline | 0.243 mmol, 60.3 mg | CN(CCOC=1C=C(N)C=C(C1)C(F)(F)F)C | C11H15F3N2O
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.156 mmol, 100 mg, 64.1% yield | CN(CCOC=1C=C(C=C(C1)C(F)(F)F)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C | C34H35F4N3O5
